* ============================================================
* Phase 1 — V1=-1V  (data store with negative input)
* V1=-1V, V2=3V, V3=3V, V4=0V, V5=-3V  (all constant)
*
* Circuit topology:
*   XM2  v1n  v2n  mid   drain=V1, gate=V2, source=mid
*   XM1  mid  v3n  sn    drain=mid, gate=V3, source=SN
*   XM0  mid  sn   v5s   drain=mid, gate=SN, source=V5
*   C1   sn   v4n        SN to V4
* ============================================================

.TITLE Phase 1 V1=-1V

.INCLUDE igzo_smooth.sub

VV1  v1n  0  DC -1.0
VV2  v2n  0  DC 3.0
VV3  v3n  0  DC 3.0
VV4  v4n  0  DC 0.0

VV5   v5raw  0    DC -3.0
VM0s  v5raw  v5s  DC 0     ; current sense for M0

C1  sn  v4n  100f  IC=0

XM2  v1n  v2n  mid  IGZO_SMOOTH
XM1  mid  v3n  sn   IGZO_SMOOTH
XM0  mid  sn   v5s  IGZO_SMOOTH

RBLEED  sn   0  10G
RMID    mid  0  10G
CMID    mid  0  1f
CSN     sn   0  1f

.IC  V(sn)=0  V(mid)=0

.OPTIONS TIMEINT METHOD=TRAP ABSTOL=1e-13 RELTOL=1e-3
.OPTIONS DEVICE GMIN=1e-15

.TRAN 0.2n 100n UIC

.PRINT TRAN FORMAT=CSV  TIME  V(sn)  V(mid)  I(VM0s)

.END
